US07935722B2
N-[6-Cyano-9-(5-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Suspend sodium hydride (60% in oil, 80 mg, 1.99 mmol) in DMF (2 mL) and chill to 0° C. Add a solution of N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (253 mg, 0.90 mmol) in DMF (2 mL) slowly via syringe, and allow to stir 30 min before warming to ambient temperature for 60 min. Add 2-chloromethyl-5-fluoro-pyridine hydrochloride salt (180 mg, 0.99 mmol) and stir the reaction for about 12 h. Quench the reaction with saturated aqueous ammonium chloride (5 mL). Add ethyl acetate (50 mL) and wash the solution with water (50 mL), then brine (2×50 mL). Separate the organic phase and dry over magnesium sulfate, filter, and evaporate under reduced pressure. Titurate the resulting residue with diethyl ether (10 mL) for 5 min and then filter to afford 187 mg (53%) of the title compound as a light yellow solid. mp 235-238° C. (dec); MS (ESI): m/z [391 C23H23FN4O+H]+; 1H NMR (300 MHz, CDCl3): δ 8.43s, 1H), 7.78 (s, 1H), 7.38-7.25 (m, 3H), 6.67 (dd, J=8.6, 4.2 Hz, 1H), 5.58 (d, J=7.8 Hz, 1H), 5.35 (s, 2H), 4.40 (br s, 1H), 3.14 (dd, J=15.4, 5.0 Hz, 1H), 2.79 (br s, 2H), 2.60 (dd, J=15.4, 7.6 Hz, 1H), 2.34 (pentet, J=6.8 Hz, 1H), 2.15 (br s, 1H), 2.02-1.95 (m, 1H), 1.16 (d, J=6.9 Hz, 6H).

reactant | sodium hydride | 1.99 mmol, 80 mg | [H-].[Na+]
reactant | N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 0.90 mmol, 253 mg | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H19N3O
reactant | 2-chloromethyl-5-fluoro-pyridine hydrochloride salt | 0.99 mmol, 180 mg | Cl.ClCC1=NC=C(C=C1)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[6-Cyano-9-(5-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 187 mg, 53% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=NC=C(C=C1)F)NC(C(C)C)=O | C23H23FN4O
